US07153875B2
To a mixture of 2-(1-methylcyclohexyl)-4-bromoanisole (13.66 g, 0.0482 mol) in THF (121 mL) cooled to −75° C. under an atmosphere of argon was added n-BuLi (33.2 mL, 1.6 M, 0.053 mol) dropwise maintaining a temperature below −70° C. The resulting suspension was stirred for 30 minutes and triisopropylborate (34.2 mL, 27.87 g, 0.148 mol) was added dropwise. The mixture was allowed to warm to RT overnight. The resulting mixture was cooled to 0° C. and 1.0 N HCl (150 mL) was slowly added. After warming to RT the mixture was diluted with ether and the layers separated, the aqueous layer was extracted ether (3×) and the organic layers combined. The resulting organic layer was washed with water, brine and dried (Mg2SO4). The mixture was filtered, evaporated and the resulting yellow oil was purified on silica gel (eluent: CH2Cl2:MeOH, 100 to 92:2) to afford 3-(1-methylcyclohexyl)-4-methoxyphenyl boronic acid (7.72 g, 64%) as a white solid. 1H NMR (300 MHz; DMSO-d6): δ 120 (s, 3H), 1.40–1.85 (m, 8H), 2.00–2.10 (m, 2H), 3.75 (s, 3H), 6.90 (d, J=8.4 Hz, 1H), 7.60 (d, J=8.4 Hz, 1H), 7.66 (brs, 1H), 7.81 (s, 2H).

reactant | 2-(1-methylcyclohexyl)-4-bromoanisole | 0.0482 mol, 13.66 g | CC1(CCCCC1)C1=C(C=CC(=C1)Br)OC | C14H19BrO
reactant | n-BuLi | 0.053 mol, 1.6 M, 33.2 mL | [Li]CCCC
reactant | triisopropylborate | 0.148 mol, 34.2 mL, 27.87 g | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
reactant | HCl | 1.0 N, 150 mL | Cl | ClH
solvent | THF | 121 mL | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | 3-(1-methylcyclohexyl)-4-methoxyphenyl boronic acid | 7.72 g, 64% | CC1(CCCCC1)C=1C=C(C=CC1OC)B(O)O | C14H21BO3
